US06407114B1
1-Cyclopentyl-3-ethyl-6-[5-(4-ethylpiperazin-1-ylsulphonyl)-2-n-propoxyphenyl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
1-Cyclopentyl-3-ethyl-6-(2-n-propoxyphenyl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one (WO 96/28448) (500 mg, 1.36 mmol) was added portionwise to chlorosulphonic acid (1.6 g, 13.6 mmol) and the reaction stirred at room temperature for 18 hours. The reaction was poured into a mixture of ice water (30 ml) and dichloromethane (30 ml) with stirring, the layers separated and the aqueous extracted with dichloromethane (2×30 ml). The combined organic solutions were washed with brine (30 ml), dried (Na2SO4) and evaporated under reduced pressure, to give a foam. N-Ethylpiperazine (108 mg, 0.95 mmol) was added dropwise to an ice-cold solution of this intermediate sulphonyl chloride in dichloromethane (3 ml) and the reaction stirred at room temperature for 2 hours. The mixture was diluted with dichloromethane (10 ml), washed consecutively with water (5 ml), saturated sodium bicarbonate solution (5 ml) and brine (5 ml), dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, using an elution gradient of dichloromethane:methanol (100:0 to 96:4) to afford the title compound, (81 mg).

reactant | 1-Cyclopentyl-3-ethyl-6-(2-n-propoxyphenyl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 1.36 mmol, 500 mg | C1(CCCC1)N1N=C(C2=C1N=C(NC2=O)C2=C(C=CC=C2)OCCC)CC | C21H26N4O2
reactant | chlorosulphonic acid | 13.6 mmol, 1.6 g | ClS(=O)(=O)O | ClHO3S
reactant | N-Ethylpiperazine | 0.95 mmol, 108 mg | C(C)N1CCNCC1 | C6H14N2
reactant | sulphonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-Cyclopentyl-3-ethyl-6-[5-(4-ethylpiperazin-1-ylsulphonyl)-2-n-propoxyphenyl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 81 mg | C1(CCCC1)N1N=C(C2=C1N=C(NC2=O)C2=C(C=CC(=C2)S(=O)(=O)N2CCN(CC2)CC)OCCC)CC | C27H38N6O4S
